US04963566
To a solution of 8-(2-benzimidazolyl)sulfinylmethyl-1-ethyl-3-ethoxycarbonyl-1,2,3,4-tetrahydroquinoline(0.4 g) in methanol (80 ml) was added sodium hydroxide (0.2 g) and the mixture was stirred for 2 hours at room temperature and furthermore refluxed for 3 hours. The solvent was distilled off under reduced pressure The resulting residue was dissolved in water, and the solution was adjusted to acidic with acetic acid. The precipitate was collected by filtration and recrystallized from methanol to give 8-(2-benzimidazolyl)sulfinylmethyl-1-ethyl-1,2,3,4-tetrahydroquinoline-3-carboxylic acid.1/2 hydrate (0.2 g).

reactant | 8-(2-benzimidazolyl)sulfinylmethyl-1-ethyl-3-ethoxycarbonyl-1,2,3,4-tetrahydroquinoline | 0.4 g | N1=C(NC2=C1C=CC=C2)S(=O)CC=2C=CC=C1CC(CN(C21)CC)C(=O)OCC | C22H25N3O3S
reactant | sodium hydroxide | 0.2 g | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 8-(2-benzimidazolyl)sulfinylmethyl-1-ethyl-1,2,3,4-tetrahydroquinoline-3-carboxylic acid | N1=C(NC2=C1C=CC=C2)S(=O)CC=2C=CC=C1CC(CN(C21)CC)C(=O)O | C20H21N3O3S
